US06566381B1
a. N-[(1,1-Dimethylethoxy)carbonyl]glycine-4phenylmethoxy-2-butenyl ester
N-[(1,1-Dimethylethoxy)carbonyl]glycine (21.9 grams, 0.125 mol), cis-4-benzyloxy-2-buten-1-ol (25 mL, 0.15 mol), and 4-dimethylaminopyridine (1.5 grams, 0.013 mol) are dissolved in methylene chloride and stirred at 0° C. Then N,N-dicyclohexylcarbodiimide (31 grams, 0.15 mol) in 30 mL methylene chloride is added and the reaction is stirred at 0° C. for five minutes. The reaction is then stirred for an additional twelve hours at 25° C. Additional methylene chloride is added and the reaction is washed consecutively with 1 N HCl, sodium bicarbonate and then with brine. The organic extract is dried over magnesium sulfate and the solvent evaporated in vacuo to give an orange oil which is absorbed onto silica gel and applied to a dry silica column. The column is eluted with hexane/EtOAc (9:1) then with hexane/EtOAc (8:2) Product fractions are combined and dried in vacuo to give the desired product.

reactant | N-[(1,1-Dimethylethoxy)carbonyl]glycine | 0.125 mol, 21.9 grams | CC(C)(OC(=O)NCC(=O)O)C | C7H13NO4
reactant | cis-4-benzyloxy-2-buten-1-ol | 0.15 mol, 25 mL | C(C1=CC=CC=C1)OC\C=C/CO | C11H14O2
catalyst | 4-dimethylaminopyridine | 0.013 mol, 1.5 grams | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 30 mL | C(Cl)Cl | CH2Cl2
product | N-[(1,1-Dimethylethoxy)carbonyl]glycine-4phenylmethoxy-2-butenyl ester | C1(=CC=CC=C1)COCC=CCOC(CNC(=O)OC(C)(C)C)=O | C18H25NO5
